US20010027196A1
2-Amino-4-[(isoquinolin-3-yl-methyl)-amino]-6-pyrazol-1-yl-pyrimidine-5-carbonitrile
From 2-amino-4-methanesulfinyl-6-pyrazol-1-yl-pyrimidine-5-carbonitrile, C-isoquinolin-3-yl-methylamine dihydrochloride and DBU in DME. ES-MS m/e (%): 343 (M+H+, 100).

reactant | 2-amino-4-methanesulfinyl-6-pyrazol-1-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)S(=O)C)C#N)N1N=CC=C1 | C9H8N6OS
reactant | C-isoquinolin-3-yl-methylamine dihydrochloride | Cl.Cl.C1=NC(=CC2=CC=CC=C12)CN
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-[(isoquinolin-3-yl-methyl)-amino]-6-pyrazol-1-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)NCC=1N=CC2=CC=CC=C2C1)C#N)N1N=CC=C1 | C18H14N8
